US08754079B2
XXVI.2 4-Fluoro-2-(cis-4-Hydroxycyclohexyloxy)-anilin
4-Fluoro-2-(cis-4-hydroxycyclohexyloxy)-nitrobenzene (2.00 g) in methanol (15.0 ml) was hydrogenated under 50 psi hydrogen using palladium on charcoal (5%) as catalyst (300 mg) at RT for 2 h. The catalyst was filtered off; the solvent was removed in vacuo to yield the desired product as 95% pure oil.

reactant | 4-Fluoro-2-(cis-4-hydroxycyclohexyloxy)-nitrobenzene | 2.00 g | FC1=CC(=C(C=C1)[N+](=O)[O-])O[C@@H]1CC[C@@H](CC1)O | C12H14FNO4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 15.0 ml | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | 4-Fluoro-2-(cis-4-Hydroxycyclohexyloxy)-anilin | FC1=CC(=C(N)C=C1)O[C@@H]1CC[C@@H](CC1)O | C12H16FNO2
